US05310932
To a solution of 6-cyano-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-benzopyran (2.0 g, 9.95 mmol) (prepared according to Evans et al., J. Med. Chem., 1983, 26, 1582 and J. Med. Chem., 1986, 29, 2194), and indole-2-carboxylic acid, ethyl ester (2.25 g, 11.9 mmol) in dimethylforamide (10.0 mL) at 0° C. under argon was added sodium hydride (476 mg of 60% oil dispersion, 11.92 mmol) in portions. After the addition was finished, the reaction mixture was allowed to warm up to room temperature and then heated at 90° C. for 16 hours. It was cooled to 0° C. in ice bath and diluted with ethyl acetate. To the resulting solution was added 1N hydrochloric acid until pH~5. The organic layer was separated and the aqueous layer was reextracted with ethyl acetate. The combined organic extracts were washed with water, brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue in dichloromethanemethanol (90:10) at 0° C. was treated with freshly prepared diazomethane. The reaction mixture was warmed up to room temperature and stirred for 1 hour. Few drops of acetic acid were added to decompose excess diazomethane (until reaction mixture turned colorless) and the solvent was evaporated to yield a brown oil It was purified by flash chromatography (dichloromethane) to yield the less polar 1-(6-cyano-2,2-dimethyl-2H-benzopyran-4-yl)-1H-indole-2-carboxylic acid, methyl ester (1.6 g). Further elution furnished the more polar title compound (380 mg) as a colorless solid, m.p. 197°-200° C. (isopropyl ether): IR (KBr) 2227, 1710, 1489, 1207 cm-1 : 1H NMR (DMSO-d6) δ 7.7 (m, 2 H), 7.47, 7.41 (s, 1 H), 7.15 (m, 3 H), 7.0, 6.85 (d, J=10 Hz, 1 H), 6.6 (m, 1 H), 5.75 (d, J=5.8 Hz, 1 H), 4.5, 4.2 (m, 2 H), 3.9, 3.5 (s, 3 H), 1.48, 1.45 (s, 3 H), 1.37, 1.27 (s, 3 H) (doubling of signals due to rotamers present in solution); 13C NMR (DMSO-d6) 162.1, 156.2, 136.3, 133.3, 131.9, 129.8, 126.9, 124.7, 123.4, 123.2, 120.6, 118.5, 112.5, 111.0, 103.3, 81.25, 68.84, 54.8, 51.9, 26.5, 18.25 ppm. The peaks due to the minor rotamer appear at 132.5, 125.2, 123.0, 122.3, 121.0, 117.8, 113.2, 71.4, 56.2, 51.6, 26.8, 22.8, 18.7 ppm.

reactant | 6-cyano-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-benzopyran | 9.95 mmol, 2.0 g | C(#N)C=1C=CC2=C(C3C(C(O2)(C)C)O3)C1 | C12H11NO2
reactant | indole-2-carboxylic acid, ethyl ester | 11.9 mmol, 2.25 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | sodium hydride | 11.92 mmol, 476 mg | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylforamide | 10.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(6-cyano-2,2-dimethyl-2H-benzopyran-4-yl)-1H-indole-2-carboxylic acid, methyl ester | 1.6 g | C(#N)C=1C=CC2=C(C(=CC(O2)(C)C)N2C(=CC3=CC=CC=C23)C(=O)OC)C1 | C22H18N2O3
